US06777426B2
4-(1H-Imidazol-4-yl-methyl)-isoquinoline dihydrochloride.
To 4-(1H-Imidazol-4-yl-methyl)-isoquinoline (0.053 g, 0.253 mmol) in 5 ml methanol, 3 ml of HCl in dioxane was added and the reaction mixture was concentrated under reduced pressure to give 0.071 g, (100%) of the product as a solid. Anal. Calcd. for C13H≦N3Cl2 1.3 mole H2O: C, 51.10; H, 5.15; N, 13.75. Found: C, 51.27; H, 4.97; N, 13.54.

reactant | 4-(1H-Imidazol-4-yl-methyl)-isoquinoline | 0.253 mmol, 0.053 g | N1C=NC(=C1)CC1=CN=CC2=CC=CC=C12 | C13H11N3
reactant | HCl | 3 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(1H-Imidazol-4-yl-methyl)-isoquinoline dihydrochloride | 100% | Cl.Cl.N1C=NC(=C1)CC1=CN=CC2=CC=CC=C12 | InChI=1S/C13H11N3.2ClH/c1-2-4-13-10(3-1)6-14-7-11(13)5-12-8-15-9-16-12;;/h1-4,6-9H,5H2,(H,15,16);2*1H
